US07700786B2
Trichloromethyl chloroformate (0.59 g, 3.0 mmol) was added to a solution of 5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole (0.48 g, 2.0 mmol) in ethyl acetate (10 ml) at 0° C., and while the mixture was allowed to have room temperature gradually, the mixture was further stirred at room temperature for 3 hours. To the reaction mixture were added O-ethylhydroxylamine hydrochloride (0.98 g, 10.0 mmol) and triethylamine (0.61 g, 6.0 mmol), and the resulting mixture was refluxed under heating. After completion of the reaction, the reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a yellowish viscous substance of N-ethoxy-5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.30 g, yield: 45.4%). 1H-NMR (CDCl3, TMS, ppm): δ 1.31 (t, J=7.0 Hz, 3H), 2.61 (d, J=0.8 Hz, 3H), 4.05 (q, J=7.0 Hz, 2H), 5.78 (q, J=0.8 Hz, 1H), 7.33-7.37 (m, 1H), 7.42-7.50 (m, 3H), 9.25 (br s, 1H).

reactant | Trichloromethyl chloroformate | 3.0 mmol, 0.59 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole | 2.0 mmol, 0.48 g | CC1=CC(=NN1)OC1=CC(=CC=C1)C(F)(F)F | C11H9F3N2O
reactant | O-ethylhydroxylamine hydrochloride | 10.0 mmol, 0.98 g | Cl.C(C)ON
reactant | triethylamine | 6.0 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-ethoxy-5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 0.30 g, yield: 45.4% | C(C)ONC(=O)N1N=C(C=C1C)OC1=CC(=CC=C1)C(F)(F)F | C14H14F3N3O3
